US04855086
7-Phenylhept-2E-en-6-ynoic acid (2 g) was dissolved in benzene (20 ml), thionyl chloride (2.5 ml) was added, and the mixture was refluxed under a nitrogen atmosphere for 45 minutes. Benzene and excess thionyl chloride were removed under reduced pressure and the residue was treated with benzene (2×4 ml), followed by evaporation, to leave a residue of 7-phenylhept-2E-en-6-ynoyl chloride. The acid chloride was dissolved in ether (20 ml), and triethylamine (1.5 ml) and isobutylamine (3 ml) were added. The mixture stirred at room temperature for 2 hours then cooled to 0° C. The mixture was filtered and the filtrate was subjected to chromatography on silica (60 g), eluting with 100% hexane grading to 100% ether, to yield N-isobutyl-7-phenylhept-2E-en-6-ynamide mp 86°-8° C.

reactant | 7-Phenylhept-2E-en-6-ynoic acid | 2 g | C1(=CC=CC=C1)C#CCC/C=C/C(=O)O | C13H12O2
reactant | thionyl chloride | 2.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 7-phenylhept-2E-en-6-ynoyl chloride | C1(=CC=CC=C1)C#CCC/C=C/C(=O)Cl | C13H11ClO
